US08378104B2
Step F: 7-iodo-2-methoxymethyl-benzothiazole
To a cooled (0° C.) solution of 7-iodo-2-methoxymethyl-benzothiazol-6-ylamine (1.8 g, 5.62 mmol) in THF under nitrogen was added tert-butyl nitrite (3.3 mL, 28.1 mmol) dropwise. The reaction mixture stirred 3 h at 50° C. Water was added and the mixture was extracted with ethyl acetate. The combined organic fractions were washed with water and brine, dried over sodium sulfate, and concentrated. Purification of the residue by column chromatography afforded 1.0 g (60%) of the title compound. 1H NMR (300 MHz, CDCl3): δ 7.90 (d, J=8 Hz, 1H), 7.75 (d, J=8 Hz, 1H), 7.19-7.21 (m, 1H), 4.8 (s, 2H), 3.58 (s, 3H).

reactant | 7-iodo-2-methoxymethyl-benzothiazol-6-ylamine | 5.62 mmol, 1.8 g | IC1=C(C=CC=2N=C(SC21)COC)N | C9H9IN2OS
reactant | tert-butyl nitrite | 28.1 mmol, 3.3 mL | N(=O)OC(C)(C)C | C4H9NO2
reactant | Water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 7-iodo-2-methoxymethyl-benzothiazole | 1.0 g, 60% | IC1=CC=CC=2N=C(SC21)COC | C9H8INOS
